US09302991B2
<Step-2>: 2-acetamido-N-(1-(3-(2,2,2-trifluoroethoxy)phenyl)ethyl)pyrimidine-4-carboxamide (Example-381, single enantiomer)
The title compound is prepared from 2-amino-N-(1-(3-(2,2,2-trifluoroethoxy)phenyl)ethyl)pyrimidine-4-carboxamide (15 mg, 0.04 mmol, Step-1, single enantiomer) and acetyl chloride (10 mg, 0.13 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(1-(3-(2,2,2-trifluoroethoxy)phenyl)ethyl)pyrimidine-4-carboxamide | 0.04 mmol, 15 mg | NC1=NC=CC(=N1)C(=O)NC(C)C1=CC(=CC=C1)OCC(F)(F)F | C15H15F3N4O2
reactant | acetyl chloride | 0.13 mmol, 10 mg | C(C)(=O)Cl | C2H3ClO
product | 2-acetamido-N-(1-(3-(2,2,2-trifluoroethoxy)phenyl)ethyl)pyrimidine-4-carboxamide | C(C)(=O)NC1=NC=CC(=N1)C(=O)NC(C)C1=CC(=CC=C1)OCC(F)(F)F | C17H17F3N4O3
